US07897792B2
2-[2-(Benzhydrylidene-amino)-3-fluoropyridin-4-ylmethyl]-3-oxobutanoic acid ethyl ester
A mixture of [2-(benzhydrylidene-amino)-3-fluoropyridin-4-yl]-methanol (compound 8c-4) (5 g, 16.3 mmol), methanesulfonyl chloride (1.52 mL, 19.6 mmol) and lithium tert-butoxide (in THF) (18 mL, 18 mmol) in THF (40 mL) was stirred at 0° C. for 1 hour. The mixture was added to a solution of acetoacetic acid ethyl ester (4.16 mL, 32.7 mmol), lithium tert-butoxide (in THF) (19.6 mL, 19.6 mmol) and NaI (2.5 g, 16.3 mmol) in THF (18 mL). The solution was stirred at 50° C. for 3 hours, 0.2N LiOH (in water) and ethyl acetate were added thereto, and the solution was washed with 0.2N LiOH (in water) and saturated saline. After drying over anhydrous magnesium sulfate, the solvent was distilled away under reduced pressure to yield the title compound (6.98 g, quant.).

reactant | [2-(benzhydrylidene-amino)-3-fluoropyridin-4-yl]-methanol | 16.3 mmol, 5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1=NC=CC(=C1F)CO | C19H15FN2O
reactant | methanesulfonyl chloride | 19.6 mmol, 1.52 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | lithium tert-butoxide | 18 mmol, 18 mL | CC(C)([O-])C.[Li+]
reactant | acetoacetic acid ethyl ester | 32.7 mmol, 4.16 mL | C(C)OC(CC(=O)C)=O | C6H10O3
reactant | lithium tert-butoxide | 19.6 mmol, 19.6 mL | CC(C)([O-])C.[Li+]
reactant | NaI | 16.3 mmol, 2.5 g | [Na+].[I-]
reactant | LiOH | 0.2N | [Li+].[OH-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 18 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[2-(Benzhydrylidene-amino)-3-fluoropyridin-4-ylmethyl]-3-oxobutanoic acid ethyl ester | 6.98 g | C(C)OC(C(C(C)=O)CC1=C(C(=NC=C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1)F)=O | C25H23FN2O3
